US03975357
A mixture of 56.4 parts of 2,2,6,6-tetramethylpiperidine and 38.6 parts of 1-bromooctane was heated at 125°-30°C for 120 hours. The cooled reaction mixture was filtered to remove 2,2,6,6-tetramethylpiperidine hydrobromide formed during the reaction. Fractional distillation of the residue gave 1-n-octyl-2,2,6,6-tetramethylpiperidine having a boiling point of 168°C/17 mm of Hg.

reactant | 2,2,6,6-tetramethylpiperidine | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 1-bromooctane | BrCCCCCCCC | C8H17Br
product | 1-n-octyl-2,2,6,6-tetramethylpiperidine | C(CCCCCCC)N1C(CCCC1(C)C)(C)C | C17H35N
